US09102671B2
To a solution of (2R,4R)-tert-butyl 2-(3-fluorophenyl)-4-hydroxypyrrolidine-1-carboxylate (I-4A) (253 mg, 0.9 mmol) in DCM (6 mL) at 0° C. was added triethylamine (0.25 mL, 1.8 mmol) followed by dropwise addition of methanesulfonyl chloride (95 μL, 1.3 mmol). After stirring 2 hours at room temperature the reaction mixture was concentrated under reduced pressure and the resulting solid was extracted with Et2O (2×20 mL). The combined extracts were washed sequentially with 1% aqueous citric acid and brine, dried over MgSO4, filtered and concentrated under reduced pressure to afford (2R,4R)-tert-butyl 2-(3-fluorophenyl)-4-((methylsulfonyl)oxy)pyrrolidine-1-carboxylate (I-29) as a colorless oil. MS m/z 382.1 (M+23)+.

reactant | (2R,4R)-tert-butyl 2-(3-fluorophenyl)-4-hydroxypyrrolidine-1-carboxylate | 0.9 mmol, 253 mg | FC=1C=C(C=CC1)[C@@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C15H20FNO3
reactant | triethylamine | 1.8 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.3 mmol, 95 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | (2R,4R)-tert-butyl 2-(3-fluorophenyl)-4-((methylsulfonyl)oxy)pyrrolidine-1-carboxylate | FC=1C=C(C=CC1)[C@@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OC(C)(C)C | C16H22FNO5S
